US08044041B2
A mixture of N-(3-aminomethyl-phenyl)-N′,N′-dimethyl-propane-1,3-diamine hydrochloride (65 mg, 0.267 mmol), 6-bromo-4-chloro-2H-phthalazin-1-one (66 mg, 0.254), Pd2(dba)3 (31 mg, 0.0339 mmol), rac-BINAP (57 mg, 0.0915 mmol), NaOtBu (88 mg, 0.916 mmol) and DMA (5 mL) was heated to 85° C. until the reaction was completed by HPLC. The reaction was filtered through celite and purified by preparatory HPLC to yield 4-chloro-6-[3-(3-dimethylamino-propylamino)-benzylamino]-2H-phthalazin-1-one hydroformate (17 mg) as an orange solid. 1H (400 MHz, d6-DMSO) δ: 1.62 (quintet, 2H), 2.11 (s, 6H), 2.26 (t, 2H), 2.98 (t, 2H), 4.29 (d, 2H), 6.42 (d, 1H), 6.53 (m, 2H), 6.81 (s, 1H), 7.10 (t, 1H), 7.12 (dd, 1H), 7.60 (t, 1H), 7.91 (d, 1H), 8.20 (s, 2H), 12.32 (s, 1H) ppm; m/z (M+1) 385.96.

reactant | N-(3-aminomethyl-phenyl)-N′,N′-dimethyl-propane-1,3-diamine hydrochloride | 0.267 mmol, 65 mg | Cl.NCC=1C=C(C=CC1)NCCCN(C)C
reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 66 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | rac-BINAP | 0.0915 mmol, 57 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 0.916 mmol, 88 mg | CC(C)(C)[O-].[Na+]
catalyst | Pd2(dba)3 | 0.0339 mmol, 31 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
product | 4-chloro-6-[3-(3-dimethylamino-propylamino)-benzylamino]-2H-phthalazin-1-one | 17 mg | ClC1=NNC(C2=CC=C(C=C12)NCC1=CC(=CC=C1)NCCCN(C)C)=O | C20H24ClN5O
